US07378418B2
Preparation of 7-(4-Chlorophenyl)-2-((6-(dimethylamino)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A mixture of 7-(4-chlorophenyl)-2-((6-(chloro)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (30 mg, 0.0667 mmol), prepared as described in Example 245, and N,N-dimethyl amine in water (1.0 mL) was heated to reflux. After 8 h, the solution was cooled to RT. The reaction mixture was concentrated under reduced pressure. The reside was purified by reverse phase HPLC to give the title compound, 7-(4-chlorophenyl)-2-((6-(dimethylamino)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (17.5 mg, 57%) as a yellow solid. HPLC: 1.41 min; M+H=458; 1H NMR (CDCl3) δ 8.63 (2H, d, J=5.0 hz), 8.23 (1H, d, J=5.0 Hz), 8.17 (1H, s), 7.58 (1H, d, J=10.0 Hz), 7.33 (2H, d, J=10.0 Hz), 7.23 (2H, d, J=5.0 Hz), 7.09 (2H, d, J=10.0 Hz), 6.47 (1H, d, J=10.0 Hz), 5.08 (2H, s), 3.07 (6H, s).

reactant | 7-(4-chlorophenyl)-2-((6-(chloro)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.0667 mmol, 30 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC=2C=NC(=CC2)Cl)=O)C2=CC=NC=C2 | C22H14Cl2N6O
reactant | N,N-dimethyl amine | CNC | C2H7N
solvent | water | 1.0 mL | O | H2O
product | 7-(4-chlorophenyl)-2-((6-(dimethylamino)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 17.5 mg, 57% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC=2C=NC(=CC2)N(C)C)=O)C2=CC=NC=C2 | C24H20ClN7O
